US05275816
b) 3,4-bis(4-Methoxybenzyloxy)benzoic acid
4-Methoxybenzyl 3,4-bis(4-methoxybenzyloxy)benzoate (6.48 g, 0.013 mol) was suspended in ethanol and treated with 2.5N aqueous sodium hydroxide solution (7.6 ml, 0.015 mol). The mixture was warmed to 60° C. for 4 h. The mixture was evaporated to low volume and then partitioned between water and ethyl acetate. The aqueous layer was washed again with ethyl acetate and then acidified and extracted into ethyl acetate. As the ethyl acetate solution was concentrated the product precipitated from solution and was filtered off to give the title compound (4.36 g, 87%).

reactant | 4-Methoxybenzyl 3,4-bis(4-methoxybenzyloxy)benzoate | 0.013 mol, 6.48 g | COC1=CC=C(COC=2C=C(C(=O)OCC3=CC=C(C=C3)OC)C=CC2OCC2=CC=C(C=C2)OC)C=C1 | C31H30O7
reactant | sodium hydroxide | 0.015 mol, 2.5N, 7.6 ml | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 3,4-bis(4-Methoxybenzyloxy)benzoic acid | 4.36 g, 87% | COC1=CC=C(COC=2C=C(C(=O)O)C=CC2OCC2=CC=C(C=C2)OC)C=C1 | C23H22O6
